US06362334B1
2 N-Carbomethoxy-3-fluoro-4-morpholinylaniline (IX)
3,4-Difluoronitrobenzene (PREPARATION 1, 24.967 g, 156.94 mmol) is added to a mixture of morpholine (60.0 ml, 688 mmol, 4.38 eq) in THF (30 ml) at −6°. The mixture is permitted to warm to 10° over 2 hrs then maintained at 10° for ½ hr. A mixture of citric acid monohydrate (75 g, 357 mmol, 2.27 eq) in water (365 ml) is added with concomitant exotherm to 28°. The phases are separated and the aqueous washed with toluene (95 ml). The organic phases are washed with water (315 ml), the aqueous back wash extracted with toluene (95 ml) and concentrated under reduced pressure. Toluene (76 ml) and methanol (60 ml) are added followed by palladium on carbon (5%, 50% water wet, 3.1370 g, 0.7371 mmol, 0.00470 eq) and the mixture sealed in a Parr shaker. Hydrogen pressure (40 PSI) is applied and maintained while agitating for 4.5 hrs. The catalyst is then removed by filtration under reduced pressure and washed with toluene (100 ml). The mixture is cooled to 2° and a mixture of aqueous potassium carbonate (47%, 17.1 ml, 85 mmol, 0.54 eq) and water (150 ml) is added. Methyl chloroformate (16.4 ml, 212 mmol, 1.35 eq) is then added while maintaining the temperature at about 3-3.5°. The resultant slurry is permitted to warm to 20-25° and stirred 17 hrs. The mixture is warmed to 75° to give a solution, then cooled to 46°, heptane (333 ml) added, then the mixture cooled to 0°, the precipitate collected by filtration with reduced pressure, washed with heptane (100 ml cooled to 5°) then water (230 ml cooled to 5°) and dried to give the title compound, TLC (silica gel; methanol/methylene chloride, 5/95) Rf=0.74 (one spot); NMR (CDCl3) 3.03, 3.76, 3.86, 6.75, 6.87, 6.98, 7.27; CMR (CDCl3) 51.18, 52.42, 67.03, 107.81, 114.56, 119.00, 133.25, 135.77, 154.07, 155.70,

reactant | 3,4-Difluoronitrobenzene | 156.94 mmol, 24.967 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | morpholine | 688 mmol, 60.0 ml, 4.38 eq | N1CCOCC1 | C4H9NO
reactant | citric acid monohydrate | 357 mmol, 75 g, 2.27 eq | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | Hydrogen | [H][H] | H2
reactant | potassium carbonate | 85 mmol, 17.1 ml, 0.54 eq | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl chloroformate | 212 mmol, 16.4 ml, 1.35 eq | ClC(=O)OC | C2H3ClO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 365 ml | O | H2O
catalyst | palladium on carbon | 0.7371 mmol, 3.1370 g, 0.00470 eq | [Pd] | Pd
solvent | water | 150 ml | O | H2O
solvent | heptane | 333 ml | CCCCCCC | C7H16
product | N-Carbomethoxy-3-fluoro-4-morpholinylaniline | C(=O)(OC)NC1=CC(=C(C=C1)N1CCOCC1)F | C12H15FN2O3
